* source ECE 442L LAB 2 CASE 4
V_V2         N01764 0 5Vdc
M_M3         N01838 N01830 N01764 N01764 Mbreakp           
M_M2         N01838 N01872 N01998 0 Mbreakn           
M_M4         N01838 N01872 N01764 N01764 Mbreakp           
V_V3         N01830 0  
+PULSE 5V 0V 0 .222us .222us .888us 2.22us
M_M1         N01998 N01830 0 0 Mbreakn           
V_V1         N01872 0  
+PULSE 5V 0V 0 .111us .111us .444us 1.11us
